US04163112
Preparation of O-[3-(2,2-Dimethoxyethoxy)-5-bromophenyl] N-2-Methylphenylcarbamate
3-(2,2-Dimethoxyethoxy)-5-bromophenol (0.05 mole) dissolved in benzene (10 ml) is charged into a glass reaction flask equipped with a mechanical stirrer. 2-Methylphenyl isocyanate (0.06 mole) and triethylamine (3 drops) are then added, and the resulting mixture is stirred at room temperature for a period of about 6 hours. The mixture is then stripped of solvent and unreacted isocyanate to yield the desired product O-[3-(2,2-dimethoxyethoxy)-5-bromophenyl] N-2-methylphenylcarbamate as the residue.

reactant | 3-(2,2-Dimethoxyethoxy)-5-bromophenol | 0.05 mole | COC(COC=1C=C(C=C(C1)Br)O)OC | C10H13BrO4
reactant | 2-Methylphenyl isocyanate | 0.06 mole | CC1=C(C=CC=C1)N=C=O | C8H7NO
reactant | isocyanate | [N-]=C=O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
product | O-[3-(2,2-dimethoxyethoxy)-5-bromophenyl] N-2-methylphenylcarbamate | CC1=C(C=CC=C1)NC(OC1=CC(=CC(=C1)Br)OCC(OC)OC)=O | C18H20BrNO5
